US07485661B2
Step 3 Preparation of methyl 4-bromo-5-cyanothiophene-2-carboxylate
To a solution of 16.48 g (66.17 mmol) of methyl 4-bromo-5-formylthiophene-2-carboxylate in 165 mL of acetonitrile was added 5.06 g (72.78 mmol) of hydroxylamine hydrochloride. To this suspension 32.05 mL (397 mmol) of pyridine was added dropwise over a period of 20 min at 20-25° C. After 90 min stirring, neat trifluoroacetic anhydride (22.5 mL, 158.8 mmol) was dropped in over 30 min at room temperature. After 2.5 hours stirring, the reaction mass was poured in a mixture of HCl 0.5 M (200 mL) and ethyl acetate (150 mL); the aqueous layer was extracted again with 150 mL of ethyl acetate. The combined organic extracts were concentrated under reduced pressure and washed again with 120 mL of HCl 1 M. The organic was concentrated under vacuum to afford a raw solid product. This crude material was taken up in 75 mL of ethanol and treated with 75 mL of water under efficient stirring. The resulting suspension was cooled to 0/+4° C., then filtered off to afford 15.4 g of product as light cream solid.

reactant | methyl 4-bromo-5-formylthiophene-2-carboxylate | 66.17 mmol, 16.48 g | BrC=1C=C(SC1C=O)C(=O)OC | C7H5BrO3S
reactant | hydroxylamine hydrochloride | 72.78 mmol, 5.06 g | Cl.NO
reactant | pyridine | 397 mmol, 32.05 mL | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetic anhydride | 158.8 mmol, 22.5 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | acetonitrile | 165 mL | C(C)#N | C2H3N
solvent | HCl | 0.5 M, 200 mL | Cl | ClH
solvent | ethyl acetate | 150 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 75 mL | C(C)O | C2H6O
solvent | water | 75 mL | O | H2O
product | methyl 4-bromo-5-cyanothiophene-2-carboxylate | 15.4 g | BrC=1C=C(SC1C#N)C(=O)OC | C7H4BrNO2S
